US07208527B2
2,2-Bis-(4-fluoro-phenyl)-4-hydroxy-butyronitrile (Compound 28)
Ethylene glycol dimethyl ether (10 ml) was treated with sodium borohydride (142 mg) and LiCl (228 mg) and the mixture stirred for 30 min. 3-Cyano-3,3-bis-(4-fluoro-phenyl)-propionic acid ethyl ester (847 mg) was added and the mixture stirred for 6 hrs, before more sodium borohydride (36 mg) and LiCl (57 mg) were added and stirring continued overnight. The mixture was poured into water and extracted (3×) with ethyl ether. The combined organic extracts were dried over Na2SO4. Filtration, concentration and flash chromatography of the residue afforded the title compound (41%; Isolated as an oil).

reactant | Ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
reactant | sodium borohydride | 142 mg | [BH4-].[Na+]
reactant | LiCl | 228 mg | [Li+].[Cl-]
reactant | 3-Cyano-3,3-bis-(4-fluoro-phenyl)-propionic acid ethyl ester | 847 mg | C(C)OC(CC(C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C#N)=O | C18H15F2NO2
reactant | sodium borohydride | 36 mg | [BH4-].[Na+]
reactant | LiCl | 57 mg | [Li+].[Cl-]
solvent | water | O | H2O
product | 2,2-Bis-(4-fluoro-phenyl)-4-hydroxy-butyronitrile | FC1=CC=C(C=C1)C(C#N)(CCO)C1=CC=C(C=C1)F | C16H13F2NO
